US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]-4-methoxyaniline
p-Methoxyaniline (0.038 g, 0.308 mmol), triethylamine (0.031 g, 0.308 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.052 g, 0.308 mmol) were added to a methylene chloride solution (5 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid (0.065 g, 0.154 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:2) to obtain the titled compound (0.066 g, 0.125 mmol, 81%).

reactant | p-Methoxyaniline | 0.308 mmol, 0.038 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.308 mmol, 0.031 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.308 mmol, 0.052 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid | 0.154 mmol, 0.065 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OCC1=CC=CC=C1)C)=O | C24H22O7
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]-4-methoxyaniline | 0.125 mmol, 0.066 g, 81% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)OCC1=CC=CC=C1)C)=O | C31H29NO7
